US06797739B1
Preparation of Ethyl 2-{4-[2,4-bis(trichloromethyl)-s-triazine-6-yl]phenyl thio}acetate Represented as in the Following Chemical Formula 1c
The mixed solution of 10 g of ethyl 2-(4-cyanophenyl thio)acetate (45.2 mmol), 0.8 g of AlBr3, and 50 g of trichloroacetonitrile were bubbled with dry HCl at room temperature.

reactant | ethyl 2-(4-cyanophenyl thio)acetate | 45.2 mmol, 10 g | C(#N)C1=CC=C(C=C1)SCC(=O)OCC | C11H11NO2S
reactant | AlBr3 | 0.8 g | [Al](Br)(Br)Br
reactant | trichloroacetonitrile | 50 g | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | HCl | Cl | ClH
product | Ethyl 2-{4-[2,4-bis(trichloromethyl)-s-triazine-6-yl]phenyl thio}acetate | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C=C1)SCC(=O)OCC)(Cl)Cl | C15H11Cl6N3O2S
